US07951815B2
NaH (1.26 g, 52.5 mmol) was added at RT to a solution of tert-butyl 3-(S)-benzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate (12.1 g, 35 mmol) in THF (250 ml). After stirring for 1 h at 0° C., benzyl chloride (4.9 g, 38.5 mmol) was added dropwise, and the mixture was allowed to warm to RT and heated for 60 h under reflux. Subsequently, benzyl chloride (2.4 g, 19 mmol) was again added and the mixture was heated under reflux for a further 16 h. The reaction mixture was treated with aqueous saturated NH4Cl solution (20 ml) and extracted with EA (3×50 ml). The combined organic phase was dried over Na2SO4, filtered and the solvent was distilled off. Workup was carried out by means of column chromatography and afforded tert-butyl-1,3-(S)-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate in a yield of 13.5 g (88%).

reactant | NaH | 52.5 mmol, 1.26 g | [H-].[Na+]
reactant | tert-butyl 3-(S)-benzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | 35 mmol, 12.1 g | C(C1=CC=CC=C1)[C@H]1C(NC2(N1)CCN(CC2)C(=O)OC(C)(C)C)=O | C19H27N3O3
reactant | benzyl chloride | 38.5 mmol, 4.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 19 mmol, 2.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | NH4Cl | 20 ml | [NH4+].[Cl-]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | tert-butyl-1,3-(S)-dibenzyl-2-oxo-1,4,8-triazaspiro[4,5]decane-8-carboxylate | C(C)(C)(C)OC(=O)N1CCC2(N[C@H](C(N2CC2=CC=CC=C2)=O)CC2=CC=CC=C2)CC1 | C26H33N3O3
